US08703761B2
D. 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carboxylic acid
A mixture of 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester (357 mg, 0.785 mmol) and concentrated aqueous KOH (2 mL) in a mixture of THF (3 mL) and ethanol (5 mL) was heated at 65° C. for 2 h, cooled to RT and partitioned between ethyl acetate and 3 M HCl. The combined organic extract was dried and concentrated to give the title compound. m/z 428.1 (MH+).

reactant | 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.785 mmol, 357 mg | C(C)OC(=O)C1=C(N=C(S1)NC(C(C)(C)NC(C1=CC=C(C=C1)F)=O)=O)C1=CC=CC=C1 | C23H22FN3O4S
reactant | KOH | 2 mL | [OH-].[K+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[2-(4-Fluoro-benzoylamino)-2-methyl-propionylamino]-4-phenyl-thiazole-5-carboxylic acid | FC1=CC=C(C(=O)NC(C(=O)NC=2SC(=C(N2)C2=CC=CC=C2)C(=O)O)(C)C)C=C1 | C21H18FN3O4S
